US08039450B2
A solution of 6-bromo-2-fluoro-3-hydroxybenzaldehyde (1.61 g, 7.35 mmol), ethylene glycol (2 mL, 36.8 mmol), para-toluenesulfonic acid (0.27 g, 0.147 mmol), and toluene (150 mL) was refluxed with a dean-stark head for 16 hours. An aqueous solution of sodium bicarbonate was added and the solution was extracted with ethyl acetate. The aqueous layer was extracted five more times with ethyl acetate. The organic layers were combined and washed with brine, dried over anhydrous sodium sulfate, and filtered. The solvent was removed under reduced pressure to give 4-bromo-3-(1,3-dioxolan-2-yl)-2-fluorophenol (1.81 g, 94% yield).

reactant | 6-bromo-2-fluoro-3-hydroxybenzaldehyde | 7.35 mmol, 1.61 g | BrC1=CC=C(C(=C1C=O)F)O | C7H4BrFO2
reactant | ethylene glycol | 36.8 mmol, 2 mL | C(CO)O | C2H6O2
reactant | para-toluenesulfonic acid | 0.147 mmol, 0.27 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-3-(1,3-dioxolan-2-yl)-2-fluorophenol | 1.81 g, 94% yield | BrC1=C(C(=C(C=C1)O)F)C1OCCO1 | C9H8BrFO3
